US08791123B2
A mixture of ((2S,5R)-5-(5-fluoropyridin-3-yl)pyrrolidin-2-yl)methanol (0.910 g, 4.64 mmol), ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate (Preparation B, 1.05 g, 4.64 mmol) and DIEA (1.10 mL, 6.00 mmol) in isopropyl alcohol (1.0 mL) was heated at 90° C. for 16 hours. The reaction mixture was concentrated and the residue was purified by reverse phase column chromatography (0-50% acetonitrile/water) followed by normal phase column chromatography (2-5% MeOH/DCM) to afford ethyl 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate (0.250 g, 14% yield) as a viscous, clear oil. MS (apci) m/z=386.0 (M+H).

reactant | ((2S,5R)-5-(5-fluoropyridin-3-yl)pyrrolidin-2-yl)methanol | 4.64 mmol, 0.910 g | FC=1C=C(C=NC1)[C@H]1CC[C@H](N1)CO | C10H13FN2O
reactant | ethyl 5-chloropyrazolo[1,5-a]pyrimidine-3-carboxylate | 4.64 mmol, 1.05 g | ClC1=NC=2N(C=C1)N=CC2C(=O)OCC | C9H8ClN3O2
reactant | DIEA | 6.00 mmol, 1.10 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
product | ethyl 5-((2R,5S)-2-(5-fluoropyridin-3-yl)-5-(hydroxymethyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylate | 0.250 g, 14% yield | FC=1C=C(C=NC1)[C@@H]1N([C@@H](CC1)CO)C1=NC=2N(C=C1)N=CC2C(=O)OCC | C19H20FN5O3
